US04355185
Phenylthioethanethiol
77 g of 2-phenylthioethanol, (0.5 mol, prepared from thiophenol and ethylene oxide in the presence of some potassium hydroxide) are maintained for 4 hours under reflux with 40 g of thiourea and 50 g of 37% hydrochloric acid. At 40° C., the reaction mixture is stirred with 50 g of 50% hydrazine hydrate solution for 30 minutes. 100 ml of toluene are added, this is maintained for 30 minutes in the steam bath, the toluene phase is separated off and compressed under vacuum.

reactant | 2-phenylthioethanol | 77 g | C1(=CC=CC=C1)SCCO | C8H10OS
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | thiourea | 40 g | NC(=S)N | CH4N2S
reactant | hydrochloric acid | 50 g | Cl | ClH
reactant | hydrazine hydrate | 50 g | O.NN
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Phenylthioethanethiol | C1(=CC=CC=C1)SC(C)S | C8H10S2
